US09169259B2
A mixture of 3-(8-(6-(2-Methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (49 mg, 0.12 mmol), tert-butyl 4-aminobenzoate (23 mg, 0.12 mmol), EDCI (92 mg, 0.48 mmol), N-methyl-imidazole (40 mg, 0.48 mmol) and dichloromethane (3 mL) was stirred at room temperature for 16 h. The solution was concentrated in vacuo and the residue was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=40:1˜100:1) to give tert-butyl 4-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)benzoate (43 mg, 61%) as a yellow oil. [M+H]+, 590.2, tR=2.283 min.

reactant | 3-(8-(6-(2-Methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.12 mmol, 49 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C23H22N6O2
reactant | tert-butyl 4-aminobenzoate | 0.12 mmol, 23 mg | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | EDCI | 0.48 mmol, 92 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-methyl-imidazole | 0.48 mmol, 40 mg | CN1C=NC=C1 | C4H6N2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)benzoate | 43 mg, 61% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)NC3=CC=C(C(=O)OC(C)(C)C)C=C3)C=CC1)C=CN2 | C34H35N7O3
